US04499299
b. 4-Methoxy-3-(4-acetyl-3-hydroxy-2-propylphenoxy)methylcinnamic acid
Methyl 3-methyl-4-methoxycinnamate was carried through steps analogous to those described in Example 16, steps b., c. and d. Methyl 4-methoxy-3-(4-acetyl-3-hydroxy-2-propylphenoxy)methylcinnamate melted at 141°-143° C. The title compound was recrystallized from ethanol to give flocculent needles, mp 245°-246° C.

reactant | Methyl 3-methyl-4-methoxycinnamate | CC=1C=C(C=CC(=O)OC)C=CC1OC | C12H14O3
reactant | Methyl 4-methoxy-3-(4-acetyl-3-hydroxy-2-propylphenoxy)methylcinnamate | COC1=C(C=C(C=CC(=O)OC)C=C1)COC1=C(C(=C(C=C1)C(C)=O)O)CCC | C23H26O6
product | 4-Methoxy-3-(4-acetyl-3-hydroxy-2-propylphenoxy)methylcinnamic acid | COC1=C(C=C(C=CC(=O)O)C=C1)COC1=C(C(=C(C=C1)C(C)=O)O)CCC | C22H24O6
